US04282361
Preparation of 4-Formylamino-3-Methylpyrazole-5-Carboxamide
A mixture of 3-methyl-4-nitropyrazole-5-carboxamide (17.0 g, 0.1 mol) in a mixture of 20 ml of 97-100% formic acid, 160 ml of ethanol and 30 ml of water was hydrogenated overnight at 40°-60° using 150 mg of 5% palladium-on-charcoal at 50 psi. Filtration of the hot solution through Celite and evaporation gave 17.8 g of crude, ochre-colored product which was recrystallized from ethanol: 1st crop 9.3 g colorless, 2nd crop 6.7 g brownish, total yield, 16.0 g (95%).

reactant | 3-methyl-4-nitropyrazole-5-carboxamide | 0.1 mol, 17.0 g | CC1=NNC(=C1[N+](=O)[O-])C(=O)N | C5H6N4O3
reactant | ethanol | 160 ml | C(C)O | C2H6O
reactant | water | 30 ml | O | H2O
solvent | formic acid | 20 ml | C(=O)O | CH2O2
catalyst | palladium-on-charcoal | 150 mg | [Pd] | Pd
product | 4-Formylamino-3-Methylpyrazole-5-Carboxamide | C(=O)NC=1C(=NNC1C(=O)N)C | C6H8N4O2
